US04245097
Preparation of 4-(11-bromoundecylamino)benzoic acid
Anhydrous hydrogen bromide is passed rapidly into a solution of 5 g. of 4-(10-undecenylamino)benzoic acid and 1 g. of dibenzoyl peroxide in 300 ml. of 1,2-dimethoxyethane for 1 hour. Partial evaporation of the solvent affords a crystalline solid which is separated by filtration and recrystallized from etherpetroleum ether to yield the product as a white solid.

reactant | hydrogen bromide | Br | BrH
reactant | 4-(10-undecenylamino)benzoic acid | C(CCCCCCCCC=C)NC1=CC=C(C(=O)O)C=C1 | C18H27NO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 4-(11-bromoundecylamino)benzoic acid | BrCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C18H28BrNO2
